US08258144B2
N-(4-(4-(4-aminobutylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide
A mixture of N-(4-aminobutyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-amine (63 mg, 0.26 mmol), N-(4-aminophenyl)-N-methylacetamide (81 mg, 0.49 mmol) and trimethylsilyl chloride (0.067 mL, 0.52 mmol) in nBuOH (3 mL) was heated at 116° C. for 4 h. It was then purified by HPLC to give the titled compound (5 mg). MS 368.2 (M+H); UV 203.8, 268.7, 301.9 nm.

reactant | N-(4-aminobutyl)-2-chloro-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.26 mmol, 63 mg | NCCCCNC=1C2=C(N=C(N1)Cl)NC=C2 | C10H14ClN5
reactant | N-(4-aminophenyl)-N-methylacetamide | 0.49 mmol, 81 mg | NC1=CC=C(C=C1)N(C(C)=O)C | C9H12N2O
reactant | trimethylsilyl chloride | 0.52 mmol, 0.067 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 3 mL | C(CCC)O | C4H10O
product | N-(4-(4-(4-aminobutylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)-N-methylacetamide | 5 mg | NCCCCNC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N(C(C)=O)C)NC=C2 | C19H25N7O
